US05099019
PREPARATION S-39 3α-Hydroxy-21-iodo-16α-methyl-5α-pregnan-20-one
A mixture of 3α-hydroxy-16α-methyl-5α-pregnan-20-one (21 g) methanol (80 ml), carbon tetrachloride (40 ml), THF (120 ml). calcium oxide (25 g) and calcium chloride in methanol (10%, 3 ml) is stirred at 25°-30°. A solution of iodine (20 g) in calcium chloride (10%, 70 ml) is added to the steroid mixture over 1 hr. The mixture is stirred an additional 2 hr at 30°, filtered through a pad of filter aid, and the filtrate concentrated under reduced pressure to an oil. The oil is dissolved in methylene chloride and flash chromatographed over silica gel (100 g) eluting with methylene chloride/ethyl acetate (4/1). The appropriate fractions are pooled, concentrated and the residue triturated with ether to give the title compound.

reactant | 3α-hydroxy-16α-methyl-5α-pregnan-20-one | 80 ml, 21 g | O[C@H]1C[C@@H]2CC[C@H]3[C@@H]4C[C@H]([C@H](C(C)=O)[C@]4(CC[C@@H]3[C@]2(CC1)C)C)C | C22H36O2
reactant | carbon tetrachloride | 40 ml | C(Cl)(Cl)(Cl)Cl | CCl4
reactant | calcium oxide | 25 g | [O-2].[Ca+2]
reactant | iodine | 20 g | II | I2
solvent | methanol | 3 ml | CO | CH4O
solvent | calcium chloride | 70 ml | [Cl-].[Ca+2].[Cl-]
solvent | THF | 120 ml | C1CCOC1 | C4H8O
product | 3α-Hydroxy-21-iodo-16α-methyl-5α-pregnan-20-one | O[C@H]1C[C@@H]2CC[C@H]3[C@@H]4C[C@H]([C@H](C(CI)=O)[C@]4(CC[C@@H]3[C@]2(CC1)C)C)C | C22H35IO2
